US04720493
To a solution of 2.0 g of 2-amino-4-(5-acetylaminomethyl-2-thienyl]thiazole in 50 ml of acetic acid is added dropwise a solution of 1.44 g of bromine in 10 ml of acetic acid with stirring at room temperature for 15 minutes. After the whole mixture is stirred for an hour, the precipitated crystals are collected by filtration and washed with ether to give 2-amino-4-(5-acetylaminomethyl-2-thienyl)-5-bromothiazole hydrobromide, melting at 185° C.-186° C. with decomposition.

reactant | 2-amino-4-(5-acetylaminomethyl-2-thienyl]thiazole | 2.0 g | NC=1SC=C(N1)C=1SC(=CC1)CNC(C)=O | C10H11N3OS2
reactant | bromine | 1.44 g | BrBr | Br2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2-amino-4-(5-acetylaminomethyl-2-thienyl)-5-bromothiazole hydrobromide | Br.NC=1SC(=C(N1)C=1SC(=CC1)CNC(C)=O)Br | InChI=1S/C10H10BrN3OS2.BrH/c1-5(15)13-4-6-2-3-7(16-6)8-9(11)17-10(12)14-8;/h2-3H,4H2,1H3,(H2,12,14)(H,13,15);1H
